US09359381B2
Step 2: 9,9-Difluoro-5-(3-fluorophenyl)-10-hydroxy-1,3-dimethyl-7,8,9,10-tetrahydropyrimido[4,5-a]indolizine-2,4(1H,3H)-dione
Sodium borohydride (7.2 mg, 0.19 mmol) was added to solution of 9,9-difluoro-5-(3-fluorophenyl)-1,3-dimethyl-8,9-dihydropyrimido[4,5-a]indolizine-2,4,10(1H,3H,7H)-trione (55 mg, 0.15 mmol) in methanol (1 mL) and tetrahydrofuran (1 mL) at 0° C. The mixture was stirred at room temperature for 30 mins. The reaction was quenched with water (10 mL) and extracted with DCM (6×5 mL). The combined organic extracts were passed through a hydrophobic frit and evaporated under vacuum to afford the title compound.

reactant | Sodium borohydride | 0.19 mmol, 7.2 mg | [BH4-].[Na+]
reactant | 9,9-difluoro-5-(3-fluorophenyl)-1,3-dimethyl-8,9-dihydropyrimido[4,5-a]indolizine-2,4,10(1H,3H,7H)-trione | 0.15 mmol, 55 mg | FC1(CCN2C(=C3C(=C2C1=O)N(C(N(C3=O)C)=O)C)C3=CC(=CC=C3)F)F | C18H14F3N3O3
solvent | methanol | 1 mL | CO | CH4O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 9,9-Difluoro-5-(3-fluorophenyl)-10-hydroxy-1,3-dimethyl-7,8,9,10-tetrahydropyrimido[4,5-a]indolizine-2,4(1H,3H)-dione | FC1(CCN2C(=C3C(=C2C1O)N(C(N(C3=O)C)=O)C)C3=CC(=CC=C3)F)F | C18H16F3N3O3
